US08871782B2
7-(Benzyloxy)-3-nitroquinolin-4-ol (12.3 g, 41.6 mmol) was slurried in DMF (83 mL). Phosphorous oxychloride (4.2 mL, 45 mmol) was added in one portion and the mixture was heated at 100° C. for 5 minutes. The solution was allowed to cool to 40° C. and was then poured into ice water (total volume 400 mL) resulting in a tan precipitate. The precipitate was filtered and washed with water. After drying, the solid was dissolved in dichloromethane and the residual water was separated. The organic fraction was dried over anhydrous sodium sulfate and anhydrous magnesium sulfate (about a 50/50 mixture). The organic fraction was filtered into a reaction flask (total volume of organic with 7-(benzyloxy)-3-chloro-4-nitroquinoline is about 425 mL). The flask was cooled to 8° C. and triethylamine (11.6 mL, 83.0 mmol) was added. (Tetrahydro-2H-pyran-4-yl)methylamine (6.0 g, 52 mmol) in dichloromethane (50 mL) was added dropwise to the mixture. The cooling bath was removed and the reaction was stirred for 16 hours. Water (200 mL) was added followed by stirring for 30 minutes. The layers were separated and the organic fraction was sequentially washed with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. Recrystallization from 2-propanol afforded 14.1 g of 7-(benzyloxy)-3-nitro-N-(tetrahydro-2H-pyran-4-ylmethyl)quinolin-4-amine as a yellow powder.

reactant | 7-(Benzyloxy)-3-nitroquinolin-4-ol | 41.6 mmol, 12.3 g | C(C1=CC=CC=C1)OC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])O | C16H12N2O4
reactant | Phosphorous oxychloride | 45 mmol, 4.2 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | triethylamine | 83.0 mmol, 11.6 mL | C(C)N(CC)CC | C6H15N
reactant | (Tetrahydro-2H-pyran-4-yl)methylamine | 52 mmol, 6.0 g | O1CCC(CC1)CN | C6H13NO
solvent | DMF | 83 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 7-(benzyloxy)-3-nitro-N-(tetrahydro-2H-pyran-4-ylmethyl)quinolin-4-amine | 14.1 g | C(C1=CC=CC=C1)OC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])NCC1CCOCC1 | C22H23N3O4
